US06498172B1
3-[3-({Benzenesulfonyl-[2-(3-chloro-phenoxy)-ethyl]-amino}-methyl)-phenyl]-propionic acid methyl ester.
Following the procedure described in Step A of Example 2, 3-[3-(benzenesulfonylamino-methyl)-phenyl]-propionic acid methyl ester was alkylated with 1-(2-bromo-ethoxy)-3-chloro-benzene to provide the title compound of Step A. 1H NMR (400 MHz, CDCl3) δ 7.86 (dd, 2H), 7.60-7.49 (m, 3H), 7.22 (d, 1H), 7.13-7.06 (m, 4H), 6.88 (m, 1H), 6.60 (d, 1H), 6.52 (m, 1H), 4.42 (s, 2H), 3.88 (s, 2H), 3.65 (s, 3H), 3.47 (t, 2H), 2.87 (t, 2H), 2.54 (t, 2H).

reactant | 3-[3-(benzenesulfonylamino-methyl)-phenyl]-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNS(=O)(=O)C1=CC=CC=C1)=O | C17H19NO4S
reactant | 1-(2-bromo-ethoxy)-3-chloro-benzene | BrCCOC1=CC(=CC=C1)Cl | C8H8BrClO
product | 3-[3-({Benzenesulfonyl-[2-(3-chloro-phenoxy)-ethyl]-amino}-methyl)-phenyl]-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CCOC1=CC(=CC=C1)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C25H26ClNO5S
